US05041455
B. 3-(4-(3-hexynyloxy)-1,2,5-oxadiazol-3-yl)-1-methylpyridinium iodide
A mixture of methyl iodide (1.5 ml, 22 mmol) and 3-(4-(3-hexynyloxy)-1,2,5-oxadiazol-3-yl)pyridine (2.5 mmol) in acetone (20 ml) was stirred at room temperature for 18 h and evaporated to give the title compound.

reactant | methyl iodide | 22 mmol, 1.5 ml | CI | CH3I
reactant | 3-(4-(3-hexynyloxy)-1,2,5-oxadiazol-3-yl)pyridine | 2.5 mmol | C(CC#CCC)OC=1C(=NON1)C=1C=NC=CC1 | C13H13N3O2
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 3-(4-(3-hexynyloxy)-1,2,5-oxadiazol-3-yl)-1-methylpyridinium iodide | [I-].C(CC#CCC)OC=1C(=NON1)C=1C=[N+](C=CC1)C | InChI=1S/C14H16N3O2.HI/c1-3-4-5-6-10-18-14-13(15-19-16-14)12-8-7-9-17(2)11-12;/h7-9,11H,3,6,10H2,1-2H3;1H/q+1;/p-1
